US07396836B2
5-[2,4-Diamino-6-(3-fluorophenyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone
A solution of 6-(3-fluorophenyl)-5-(6-methoxy-3-pyridyl)-2,4-pyrimidinediamine (5.00 g, 16.1 mmol) in acetic acid (30 ml)/concentrated hydrobromic acid (50 ml) was stirred at 100° C. for 1.5 hours. After cooling as it was, the reaction mixture was adjusted to pH 12 to 13 with 5N sodium hydroxide and washed with ethylacetate. The aqueous layer was neutralized with 5N hydrochloric acid. The resulting solid was collected by filtration, to give the title compound (3.36 g, 70%) as a colorless solid.

reactant | 6-(3-fluorophenyl)-5-(6-methoxy-3-pyridyl)-2,4-pyrimidinediamine | 16.1 mmol, 5.00 g | FC=1C=C(C=CC1)C1=C(C(=NC(=N1)N)N)C=1C=NC(=CC1)OC | C16H14FN5O
reactant | hydrobromic acid | 30 ml | Br | BrH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-[2,4-Diamino-6-(3-fluorophenyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone | 3.36 g, 70% | NC1=NC(=C(C(=N1)N)C=1C=CC(NC1)=O)C1=CC(=CC=C1)F | C15H12FN5O
